US04358307
Phosphorus oxychloride (50 ml) and phosphorus pentachloride (10 g) were added to 6,7-dichloro-2-hydroxyquinoxaline (6.6 g) and the mixture was stirred for a period of 1 hour. The mixture was then poured onto ice and the precipitate collected by filtration to give 2,6,7-trichloroquinoxaline, mp 137° C.

reactant | phosphorus pentachloride | 10 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 6,7-dichloro-2-hydroxyquinoxaline | 6.6 g | ClC=1C=C2N=CC(=NC2=CC1Cl)O | C8H4Cl2N2O
solvent | Phosphorus oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2,6,7-trichloroquinoxaline | ClC1=NC2=CC(=C(C=C2N=C1)Cl)Cl | C8H3Cl3N2
